US04230709
3-Benzyl-5,5-dimethyl-2,4-imidazolidine-dione
5,5-Dimethyl hydantoin (5.15 g, 0.039 mole) was added to a suspension of sodium hydride (1.87 g, 50% oil dispersion) in dry dimethylformamide (50 ml) and the mixture stirred and heated at 50° C. until evolution of hydrogen ceased. The solution was cooled and benzyl chloride (4.94 ml, 1.1 equivalents) was added and the mixture heated at 50° C. for 11/2 hours. The dimethylformamide was removed under reduced pressure and the residue partitioned between ether and brine. The ethereal extracts were combined, washed with water, dried (MgSO4) and the solvent evaporated to yield the title compound as a white crystalline solid m.p. 100°-102° C. Yield=8.0 g=91%.

reactant | 5,5-Dimethyl hydantoin | 0.039 mole, 5.15 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | sodium hydride | 1.87 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | benzyl chloride | 4.94 ml, 1.1 equivalents | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Benzyl-5,5-dimethyl-2,4-imidazolidine-dione | C(C1=CC=CC=C1)N1C(NC(C1=O)(C)C)=O | C12H14N2O2
